US06313122B1
Preparation of N1-(4-Methylbenzoyl)-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine hydrochloride
Using the procedure described in Example 48, Part C, N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine (0.61 mmol) and 4-methylbenzoyl chloride (1.2 mmol) yielded 164 mg (56%) of the title compound.

reactant | N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine | 0.61 mmol | N1=CC=C(C=C1)N1CCC(CC1)COC(=O)NNC=1C(=CC=CC1)N | C18H23N5O2
reactant | 4-methylbenzoyl chloride | 1.2 mmol | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
product | N1-(4-Methylbenzoyl)-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine hydrochloride | 164 mg, 56% | Cl.CC1=CC=C(C(=O)NC=2C(=CC=CC2)NNC(=O)OCC2CCN(CC2)C2=CC=NC=C2)C=C1 | InChI=1S/C26H29N5O3.ClH/c1-19-6-8-21(9-7-19)25(32)28-23-4-2-3-5-24(23)29-30-26(33)34-18-20-12-16-31(17-13-20)22-10-14-27-15-11-22;/h2-11,14-15,20,29H,12-13,16-18H2,1H3,(H,28,32)(H,30,33);1H
